US05414130
A 500 mL, 3-necked, round-bottomed flask is charged with 150 mL of water, 21.4 g (0.1 mole) of 5-methoxy-2,4-dinitrophenol and 1.0 g of 10% palladium on carbon catalyst. The reaction is stirred under a nitrogen atmosphere for 3 to 4 minutes. The stirred reaction mixture is heated to 55° C. and hydrogen gas is sparged below the surface of the reaction mixture. After 10 minutes, 19.8 g (0.2 mole) of concentrated HCl is added through the condenser while hydrogenation is continued for 4 hours. The catalyst is removed by filtration and the filtrate is passed into a solution consisting of 0.5 g of stannous chloride dihydrate and 25 mL of concentrated HCl. This solution is then saturated with dry HCl gas and charged to a 600 mL 5 Hastalloy B autoclave. The reactor is heated to 150° C. for 18 hours and cooled to 25° C. The resulting product is isolated by filtration and dried under nitrogen to yield 19.7 g (90% yield) of crude 4,6-diaminoresorcinol dihydrochloride.

reactant | 5-methoxy-2,4-dinitrophenol | 0.1 mole, 21.4 g | COC=1C(=CC(=C(C1)O)[N+](=O)[O-])[N+](=O)[O-] | C7H6N2O6
reactant | HCl | 0.2 mole, 19.8 g | Cl | ClH
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | water | 150 mL | O | H2O
product | 4,6-diaminoresorcinol dihydrochloride | 19.7 g, 90% yield | Cl.Cl.NC1=C(C=C(O)C(=C1)N)O | InChI=1S/C6H8N2O2.2ClH/c7-3-1-4(8)6(10)2-5(3)9;;/h1-2,9-10H,7-8H2;2*1H
